US09388176B2
3-[5-(methoxycarbonyl)-3,4-dihydro-2,7-naphthyridin-2(1H)-yl]benzoic acid
A mixture of 7-(3-tert-Butoxycarbonyl-phenyl)-5,6,7,8-tetrahydro-[2,7]naphthyridine-4-carboxylic acid methyl ester (6.9 g, 0.0188 mol) and 98% formic acid (30 mL) was heated at 50° C. for 4 hr and at 30° C. overnight. HPLC analysis showed the reaction was not complete. It was heated at 50° C. for an additional 1.5 hr. The reaction mixture was concentrated under reduced pressure. Diluted with dichloromethane (200 mL) and cooled to 0° C. To the mixture (liquid and solid) was added saturated sodium bicarbonate until to get a pH=5-6 at 0° C. The solid was collected, washed with water (50 mL), dichloromethane (50 mL) and air dried. The solid was triturated with acetone (50 mL) for 30 min. The yellow-green solid was collected and dried in a drying pistol with refluxing acetone overnight to give the title compound (3.86 g, 66%). 1H NMR 300 MHz (d6-DMSO), δ 13 (brs, 1H), 8.8 (s, 1H), 8.65 (s, 1H), 7.5 (m, 4H), 4.5 (s, 2H), 3.8 (s, 3H), 3.6 (t, 2H), 3.2 (t, 2H).

reactant | 7-(3-tert-Butoxycarbonyl-phenyl)-5,6,7,8-tetrahydro-[2,7]naphthyridine-4-carboxylic acid methyl ester | 0.0188 mol, 6.9 g | COC(=O)C1=CN=CC=2CN(CCC12)C1=CC(=CC=C1)C(=O)OC(C)(C)C | C21H24N2O4
solvent | formic acid | 30 mL | C(=O)O | CH2O2
product | 3-[5-(methoxycarbonyl)-3,4-dihydro-2,7-naphthyridin-2(1H)-yl]benzoic acid | 3.86 g, 66% | COC(=O)C1=C2CCN(CC2=CN=C1)C=1C=C(C(=O)O)C=CC1 | C17H16N2O4
